US03950393
24 gm of diethylamine were added to a solution of 16.5 gm of 2-acetylamino-5-bromo-3-bromoethyl-benzyl bromide in 1.6 liters of carbon tetrachloride, and the mixture was refluxed for 1 hour. Subsequently, the reaction solution was evaporated, the residue was dissolved in 0.7 liter of 2 N hydrochloric acid, and the solution was extracted twice with chloroform. The hydrochloric acid phase was made alkaline with concentrated ammonia and extracted three times with chloroform. The organic phase was dried with sodium sulfate, and the solvent was distilled off. The residue was purified by column-chromatography on silicagel with ethylacetate/methanol (1:1), the corresponding fractions were united, and 2-acetylamino-5-bromo-N,N-diethyl-3-diethylamino-methyl-benzylamine, m.p. 91.5°-93°C, was obtained by recrystallization from petroleum ether.

reactant | diethylamine | 24 gm | C(C)NCC | C4H11N
reactant | 2-acetylamino-5-bromo-3-bromoethyl-benzyl bromide | 16.5 gm | C(C)(=O)NC1=C(CBr)C=C(C=C1CCBr)Br | C11H12Br3NO
solvent | carbon tetrachloride | 1.6 liters | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-acetylamino-5-bromo-N,N-diethyl-3-diethylamino-methyl-benzylamine | C(C)(=O)NC1=C(C(N(CC)CC)C)C=C(C=C1N(CC)CC)Br | C18H30BrN3O
